US05324747
A solution of 1.76 g (2.58 mmol) of N-(2-methoxy-2-oxoethyl)-N-[3-octadecyloxy-5-(3,6,9-trioxaundec-1-yloxy)phenyl]glycine methyl ester and 2.2 ml (12.9 mmol) of 6 N NaOH in 75 ml of methanol was kept at room temperature for 70 hours. The solvent was removed at reduced pressure and the residue was acidified to pH 2. The product was extracted with ethyl acetate and the dried extract was concentrated at reduced pressure to a solid which was triturated with hexane and filtered to give 1.62 g (96% yield, mp 76°-78°) of N-[(Carboxymethyl)-N-[3-[2-[2-(2-ethoxyethoxy)ethoxy]ethoxy]-5-(octadecyloxy)phenyl]glycine.

reactant | N-(2-methoxy-2-oxoethyl)-N-[3-octadecyloxy-5-(3,6,9-trioxaundec-1-yloxy)phenyl]glycine methyl ester | 2.58 mmol, 1.76 g | COC(CN(C1=CC(=CC(=C1)OCCOCCOCCOCC)OCCCCCCCCCCCCCCCCCC)CC(=O)OC)=O | C38H67NO9
reactant | NaOH | 12.9 mmol, 6 N, 2.2 ml | [OH-].[Na+]
solvent | methanol | 75 ml | CO | CH4O
product | (Carboxymethyl)-N-[3-[2-[2-(2-ethoxyethoxy)ethoxy]ethoxy]-5-(octadecyloxy)phenyl]glycine | 96% yield | C(=O)(O)CN(CC(=O)O)C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCCOCCOCCOCC | C36H63NO9
